US04550107
(S)-5,10-Dihydro-5-[[2-[(1-pyrrolidinyl)methyl]-1-pyrrolidinyl]-acetyl]-11H-dibenzo[b,e][1,4]diazepin-11-one
The title compound is prepared analogously to Example 31 from 5-(chloroacetyl)-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one and (S)-(+)-2-[(1-pyrrolidinyl)methyl]pyrrolidine to give colorless crystals, mp. 142°-144° C. (ethyl acetate/methanol 99:1 v/v); [α]D20 =-18.5° (ethanol).

reactant | 5-(chloroacetyl)-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one | ClCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C15H11ClN2O2
reactant | (S)-(+)-2-[(1-pyrrolidinyl)methyl]pyrrolidine | N1(CCCC1)C[C@H]1NCCC1 | C9H18N2
reactant | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | ethanol | C(C)O | C2H6O
product | (S)-5,10-Dihydro-5-[[2-[(1-pyrrolidinyl)methyl]-1-pyrrolidinyl]-acetyl]-11H-dibenzo[b,e][1,4]diazepin-11-one | N1(CCCC1)C[C@H]1N(CCC1)CC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C24H28N4O2
